US05530138
4-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethylamino]-benzonitrile
The procedures described in Example 1 were repeated except that 4-fluorobenzonitrile (1.00 g, 8.26 mmol ) and 2-(1-azabicyclo[3.3.0]octan-5-yl)ethylamine (3.15 g, 20.4 mmol) were employed. In this case, the desired compound was obtained as a colorless liquid (2.02 g, 99.1%).

reactant | 4-fluorobenzonitrile | 8.26 mmol, 1.00 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2-(1-azabicyclo[3.3.0]octan-5-yl)ethylamine | 20.4 mmol, 3.15 g | N12CCCC2(CCC1)CCN | C9H18N2
product | 4-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethylamino]-benzonitrile | N12CCCC2(CCC1)CCNC1=CC=C(C#N)C=C1 | C16H21N3
